US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (8.00 g) as a starting compound, 3-benzylsulfonylpropyl chloride (6.03 g) and potassium carbonate (13.4 g) were reacted and purified in the same manner as in Example 199 to give 4.40 g of 4-amino-5-chloro-2-methoxy-N-((1-(3-benzylsulfonylpropyl)piperidin-4-yl)methyl)-benzamide, m.p. 166°-168° C.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 8.00 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 3-benzylsulfonylpropyl chloride | 6.03 g | C(C1=CC=CC=C1)S(=O)(=O)CCCCl | C10H13ClO2S
reactant | potassium carbonate | 13.4 g | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-5-chloro-2-methoxy-N-((1-(3-benzylsulfonylpropyl)piperidin-4-yl)methyl)-benzamide | 4.40 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCS(=O)(=O)CC2=CC=CC=C2)C=C1Cl)OC | C24H32ClN3O4S
